*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MSS1812T-104_freq port1 port2 PARAMS: Cpar=22.3pF Ind=100uH
X1 port1 port2 Model1A PARAMS:
+ R1=6.3
+ R2=0.052
+ C= {Cpar}
+ K1=0.002
+ K2=23.6
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39518.4916
.ends MSS1812T-104_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MSS1812T-104_imp port1 port2 PARAMS: Cpar=22.3pF Ind=100uH
X1 port1 port2 Model1D PARAMS:
+ R1=6.3
+ R2=0.052
+ C= {Cpar}
+ K1=0.002
+ K2=23.6
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39518.4916
.ends MSS1812T-104_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MSS1812T-154_freq port1 port2 PARAMS: Cpar=22.2pF Ind=150uH
X1 port1 port2 Model1A PARAMS:
+ R1=4
+ R2=0.066
+ C= {Cpar}
+ K1=0.004
+ K2=24.4
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=38090.642
.ends MSS1812T-154_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MSS1812T-154_imp port1 port2 PARAMS: Cpar=22.2pF Ind=150uH
X1 port1 port2 Model1D PARAMS:
+ R1=4
+ R2=0.066
+ C= {Cpar}
+ K1=0.004
+ K2=24.4
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=38090.642
.ends MSS1812T-154_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-15MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MSS1812T-224_freq port1 port2 PARAMS: Cpar=23.2pF Ind=220uH
X1 port1 port2 Model1A PARAMS:
+ R1=6
+ R2=0.098
+ C= {Cpar}
+ K1=0.009
+ K2=45.3
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=59384.9278
.ends MSS1812T-224_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-15MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MSS1812T-224_imp port1 port2 PARAMS: Cpar=23.2pF Ind=220uH
X1 port1 port2 Model1D PARAMS:
+ R1=6
+ R2=0.098
+ C= {Cpar}
+ K1=0.009
+ K2=45.3
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=59384.9278
.ends MSS1812T-224_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-15MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MSS1812T-334_freq port1 port2 PARAMS: Cpar=26.7pF Ind=330uH
X1 port1 port2 Model1A PARAMS:
+ R1=7
+ R2=0.15
+ C= {Cpar}
+ K1=0.008
+ K2=59.6
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=69956.4042
.ends MSS1812T-334_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-15MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MSS1812T-334_imp port1 port2 PARAMS: Cpar=26.7pF Ind=330uH
X1 port1 port2 Model1D PARAMS:
+ R1=7
+ R2=0.15
+ C= {Cpar}
+ K1=0.008
+ K2=59.6
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=69956.4042
.ends MSS1812T-334_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-474
* Inductance = 470uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-15MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MSS1812T-474_freq port1 port2 PARAMS: Cpar=27pF Ind=470uH
X1 port1 port2 Model1A PARAMS:
+ R1=7
+ R2=0.23
+ C= {Cpar}
+ K1=0.02
+ K2=86
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=86577.3452
.ends MSS1812T-474_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-474
* Inductance = 470uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-15MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MSS1812T-474_imp port1 port2 PARAMS: Cpar=27pF Ind=470uH
X1 port1 port2 Model1D PARAMS:
+ R1=7
+ R2=0.23
+ C= {Cpar}
+ K1=0.02
+ K2=86
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=86577.3452
.ends MSS1812T-474_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-684
* Inductance = 680uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MSS1812T-684_freq port1 port2 PARAMS: Cpar=28.4pF Ind=680uH
X1 port1 port2 Model1A PARAMS:
+ R1=9.5
+ R2=0.27
+ C= {Cpar}
+ K1=0.03
+ K2=109
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=96990.4518
.ends MSS1812T-684_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-684
* Inductance = 680uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MSS1812T-684_imp port1 port2 PARAMS: Cpar=28.4pF Ind=680uH
X1 port1 port2 Model1D PARAMS:
+ R1=9.5
+ R2=0.27
+ C= {Cpar}
+ K1=0.03
+ K2=109
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=96990.4518
.ends MSS1812T-684_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-105
* Inductance = 1000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MSS1812T-105_freq port1 port2 PARAMS: Cpar=30.8pF Ind=1000uH
X1 port1 port2 Model1A PARAMS:
+ R1=12
+ R2=0.52
+ C= {Cpar}
+ K1=0.03
+ K2=215
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=163035.541
.ends MSS1812T-105_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MSS1812T-105
* Inductance = 1000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-5MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MSS1812T-105_imp port1 port2 PARAMS: Cpar=30.8pF Ind=1000uH
X1 port1 port2 Model1D PARAMS:
+ R1=12
+ R2=0.52
+ C= {Cpar}
+ K1=0.03
+ K2=215
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=163035.541
.ends MSS1812T-105_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
